US04423047
2-(2-Hydroxy-3-chloropropyl)thio-5-chloropyrimidine
A mixture of 5-chloropyrimidine-2-thione (14 mmol) and triethylamine (14 mmol) was stirred together in dichloromethane (30 ml) for 5 min before epichlorohydrin (15 mmol) was added. The mixture was stirred at room temperature for 3 h, the solvent evaporated, the residue triturated with water, the insoluble material extracted with chloroform, the dried (MgSO4) chloroform solution evaporated and the residue crystallized from chloroform:pet. ether; yield 30%, m.p. 99° C. 1H NMR (acetone-d6): δ3.3-3.8 (2CH2, m) 3.9-4.4 (CH, m), 4.6-4.7 (OH), 8.59 (H-4, H-6).

reactant | 5-chloropyrimidine-2-thione | 14 mmol | ClC=1C=NC(NC1)=S | C4H3ClN2S
reactant | triethylamine | 14 mmol | C(C)N(CC)CC | C6H15N
reactant | epichlorohydrin | 15 mmol | C(Cl)C1CO1 | C3H5ClO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(2-Hydroxy-3-chloropropyl)thio-5-chloropyrimidine | yield 30% | OC(CSC1=NC=C(C=N1)Cl)CCl | C7H8Cl2N2OS
